US09056859B2
A mixture of tert-butyl 4-{[6-(1H-tetrazol-1-yl)pyridin-3-yl]acetyl}piperazine-1-carboxylate (60 mg, 0.16 mmol) in HCl/EtOAc (3 mL) was stirred for 3 hours at room temperature. The reaction mixture was concentrated under reduce pressure to give 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3yl]ethanone hydrochloride. MS m/z 274 (M+1)+. 1H-NMR (400 MHz, MeOD) δ 9.89 (s, 1H), 8.46 (s, 1H), 8.05˜8.07 (m, 1H), 7.99˜8.00 (m, 1H), 3.99 (s, 2H), 3.85˜3.92 (m, 4H), 3.24˜3.30 (m, 4H).

reactant | tert-butyl 4-{[6-(1H-tetrazol-1-yl)pyridin-3-yl]acetyl}piperazine-1-carboxylate | 0.16 mmol, 60 mg | N1(N=NN=C1)C1=CC=C(C=N1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C17H23N7O3
reactant | HCl EtOAc | 3 mL | Cl.CCOC(=O)C
product | 1-(piperazin-1-yl)-2-[6-(1H-tetrazol-1-yl)pyridin-3yl]ethanone hydrochloride | Cl.N1(CCNCC1)C(CC=1C=NC(=CC1)N1N=NN=C1)=O | InChI=1S/C12H15N7O.ClH/c20-12(18-5-3-13-4-6-18)7-10-1-2-11(14-8-10)19-9-15-16-17-19;/h1-2,8-9,13H,3-7H2;1H
